* 7812 simple behavioral
* Source: https://github.com/kafana/ltspice-misc/blob/master/models/regulators.lib
.subckt 7812 In Aj Out
F1 In 0 Vc 1
Rcon In 0 1e6
B1 4 Aj V= Table (V(In,Aj), 0,0, 1,0, 14,12, 35,12, 36,0)
Vc 4 Out 0
F2 In Aj Vc 4m
.ends
